US06462068B1
1-Benzyl-3-(4,5-dimethyl-2-pyrimidyl)indazole
640 mg of 1-benzyl-3-trimethylstannylindazole (1.72 mmol), 212 mg of 2-chloro-4,5-dimethylpyrimidine* (1.49 mmol) and 72 mg (0.10 mmol) of Pd(PPh3)2Cl2 (5.8 mol %) in 20 ml of toluene were heated under reflux overnight in an argon atmosphere. The mixture was cooled to room temperature, saturated ammonium chloride solution was added and the mixture was extracted with ethyl acetate. The organic phase was dried over magnesium sulphate and freed from the solvent on a rotary evaporator. Purification was carried out by chromatography over silica gel using cyclohexane/ethyl acetate as the eluent (gradient from 10:1 to 1:1).

reactant | 1-benzyl-3-trimethylstannylindazole | 1.72 mmol, 640 mg | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)[Sn](C)(C)C
reactant | 2-chloro-4,5-dimethylpyrimidine | 212 mg | ClC1=NC=C(C(=N1)C)C | C6H7ClN2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)2Cl2 | 0.10 mmol, 72 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-Benzyl-3-(4,5-dimethyl-2-pyrimidyl)indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C1=NC=C(C(=N1)C)C | C20H18N4
